US06005103
3-[1-[(2,6-Dichlorophenyl)thio]-3-methylbutyl]-4-hydroxy-6-phenyl-2H-pyran-2-one, (±)
The title compound was prepared by Method c using 4-hydroxy-6-phenyl-2H-pyran-2-one (1.00 g, 5.31 mmol), ethanol (10 mL), isovaleraldehyde (0.62 mL, 5.84 mmol), 2,6-dichlorothiophenol (2.74 g, 13.8 mmol), piperdine (0.5 mL), acetic acid (0.5 mL). m.p. 158-162° C.; 1H NMR (400 MHz, DMSO-d6) δ0.83 (d, 3 H), 0.87 (d, 3 H), 1.49 (m, 1 H), 1.74 (m, 1 H), 2.39 (m, 1 H), 4.68 (m, 1 H), 6.769 (s, 1 H), 7.49 (m, 5 H), 7.74 (m, 3 H).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 5.31 mmol, 1.00 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | isovaleraldehyde | 5.84 mmol, 0.62 mL | C(CC(C)C)=O | C5H10O
reactant | 2,6-dichlorothiophenol | 13.8 mmol, 2.74 g | ClC1=C(C(=CC=C1)Cl)S | C6H4Cl2S
reactant | piperdine | 0.5 mL | N1CCCCC1 | C5H11N
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-[1-[(2,6-Dichlorophenyl)thio]-3-methylbutyl]-4-hydroxy-6-phenyl-2H-pyran-2-one | ClC1=C(C(=CC=C1)Cl)SC(CC(C)C)C=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H20Cl2O3S
